US09034899B2
A mixture of 4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate (225 mg, 0.53 mmol), 4-carbamoylphenylboronic acid (132 mg, 0.8 mmol) and cesium carbonate (521 mg, 1.6 mmol) in water (2 mL) and N,N-dimethylformamide (4 mL) was degassed with argon and then [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (22 mg, 0.03 mmol) was added. The mixture was degassed again and then heated to 90° C. for 2 hours. The mixture was partitioned between water and ethyl acetate (3×) and the combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by semi-preparative HPLC followed by lyophilization to give 4-(4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinolin-7-yl)benzamide (19 mg, 7%) as a yellow oil: 1H NMR (CD3OD, 500 MHz) δ 7.96 (d, J=8.3 Hz, 2H), 7.74 (d, J=8.3 Hz, 2H), 7.64 (s, 1H), 7.62-7.59 (m, 1H), 7.56 (d, J=8.3 Hz, 1H), 7.49 (d, J=2.0 Hz, 1H), 7.23 (dd, J=8.3, 2.0 Hz, 1H), 7.02 (d, J=8.2 Hz, 1H), 4.67-4.53 (m, 3H), 3.82 (dd, J=12.6, 6.1 Hz, 1H), 3.51 (dd, J=12.5, 10.9 Hz, 1H); ESI MS m/z 397 [M+H]+.

reactant | 4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate | 0.53 mmol, 225 mg | FC(S(=O)(=O)OC1=CC=C2C(CNCC2=C1)C1=CC(=C(C=C1)Cl)Cl)(F)F | C16H12Cl2F3NO3S
reactant | 4-carbamoylphenylboronic acid | 0.8 mmol, 132 mg | C(N)(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
reactant | cesium carbonate | 1.6 mmol, 521 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 2 mL | O | H2O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-(4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinolin-7-yl)benzamide | 19 mg, 7% | ClC=1C=C(C=CC1Cl)C1CNCC2=CC(=CC=C12)C1=CC=C(C(=O)N)C=C1 | C22H18Cl2N2O
